US05175157
2-[3-(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-monohydrate
Prepared from 2-[3-(pyrid-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 4-(2-chloroethyl)-6,7-dimethoxy-isoquinoline analogously to Example 1.

reactant | 2-[3-(pyrid-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1=CC(=CC=C1)CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C19H22N2O3
reactant | 4-(2-chloroethyl)-6,7-dimethoxy-isoquinoline | ClCCC1=CN=CC2=CC(=C(C=C12)OC)OC | C13H14ClNO2
product | 2-[3-(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-monohydrate | O.Cl.Cl.COC=1C=C2C(=CN=CC2=CC1OC)CCN1CC(CCC1)CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C32H41N3O5.2ClH.H2O/c1-37-28-15-23-10-14-35(32(36)27(23)18-31(28)40-4)12-6-8-22-7-5-11-34(21-22)13-9-24-19-33-20-25-16-29(38-2)30(39-3)17-26(24)25;;;/h15-20,22H,5-14,21H2,1-4H3;2*1H;1H2
